US09233985B2
A stirred mixture of (1S,2R)-1-acetamido-N-tert-butyl-2-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl)cyclopentanecarboxamide (0.627 g, 1.59 mmol) in 6 N HCl (15 mL) was heated to 90° C. for 20 h, cooled to room temperature, and diluted with water (15 mL). The mixture was extracted with dichloromethane (2×15 mL) and concentrated. Water (20 mL) was then added to the concentrated crude mixture and the aqueous solution is re-concentrated in vacuo (2×) to remove excess HCl. The resulting residue was dissolved in methanol (5 mL) and diluted to a volume of 40 mL with ether and stirred for 1 hour, to remove solid tertbutylamine hydrochloride by filtration. The resultant filtrate, upon concentration was treated with a solution of concentrated ammonium hydroxide (15 mL), followed by removal of the excess ammonium hydroxide under vacuum (3×). The resulting solid white residue was triturated using acetonitrile and dried to afford the target compound (1S,2R)-1-amino-2-(3-boronopropyl)cyclopentanecarboxylic acid (0.397 g, 93%) as a white powder that exists as a 1:1 mixture of the cyclized and uncyclized forms. 1H NMR (DMSO, 300 MHz) δ 6.38 (br d, J=11.4 Hz, NH, 0.5 H), 5.97 (br d, J=12 Hz, NH, 0.5 H), 2.22-2.05 (m, 1 H), 1.98-1.42 (m, 6 H), 1.43-1.00 (m, 3 H), 0.95-0.88 (m, 1 H), 0.60-0.42 (m, 1 H), 0.38-0.20 (m, 1 H); MS (+CI): m/z for C9H18BNO4: expected 215.1; found 215.3 (M+H)+.

reactant | (1S,2R)-1-acetamido-N-tert-butyl-2-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl)cyclopentanecarboxamide | 1.59 mmol, 0.627 g | C(C)(=O)N[C@@]1([C@@H](CCC1)CCCB1OC(C(O1)(C)C)(C)C)C(=O)NC(C)(C)C | C21H39BN2O4
reactant | water | 15 mL | O | H2O
solvent | HCl | 6 N, 15 mL | Cl | ClH
product | (1S,2R)-1-amino-2-(3-boronopropyl)cyclopentanecarboxylic acid | 0.397 g, 93% | N[C@@]1([C@@H](CCC1)CCCB(O)O)C(=O)O | C9H18BNO4
